US05856503
A mixture of 4.25 g of (4-bromo-phenyl)-(2,4-dihydroxyphenyl)-methanone, 3.22 g of hydroxylamine.hydrochloride and 2.85 g of sodium acetate in 100 ml of ethanol is heated under reflux. The reaction mixture is concentrated, treated with 100 ml of saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic extracts are washed with saturated sodium chloride solution, dried and evaporated. The residue is treated with 200 ml of ethanol. After the addition of 1.1 g of p-toluenesulphonic acid the mixture is heated to 85° C. for 24 hrs. For the working-up, the reaction mixture is concentrated and the residue is taken up in 250 ml of ethyl acetate and washed with saturated sodium hydrogen carbonate solution and with saturated sodium chloride solution. The organic phase is dried and evaporated. There are obtained 4.0 g of 3-(4-bromo-phenyl)-benzo[d]isoxazol-6-ol, MS: m/e 289 (M+H+, 1 Br).

reactant | (4-bromo-phenyl)-(2,4-dihydroxyphenyl)-methanone | 4.25 g | BrC1=CC=C(C=C1)C(=O)C1=C(C=C(C=C1)O)O | C13H9BrO3
reactant | hydroxylamine.hydrochloride | 3.22 g | Cl.NO
reactant | sodium acetate | 2.85 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(4-bromo-phenyl)-benzo[d]isoxazol-6-ol | 4.0 g | BrC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)O | C13H8BrNO2
